US08236806B2
1-(3-(1-tert-butyl-5-(4-chlorophenyl)-1H-pyrazol-3-yl)propyl)-4-(2,3-dimethylphenyl)piperazine (Compound 66)
118 mg (85%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-tert-butyl-5-(4-chlorophenyl)-1H-pyrazol-3-yl)propanal (80 mg, 0.275 mmol), 1-(2,3-dimethylphenyl)piperazine (52 mg, 0.275 mmol), DIPEA (0.072 mL, 0.413 mmol) and NaBH(OAc)3 (175 mg, 0.825 mmol).

reactant | 3-(1-tert-butyl-5-(4-chlorophenyl)-1H-pyrazol-3-yl)propanal | 0.275 mmol, 80 mg | C(C)(C)(C)N1N=C(C=C1C1=CC=C(C=C1)Cl)CCC=O | C16H19ClN2O
reactant | 1-(2,3-dimethylphenyl)piperazine | 0.275 mmol, 52 mg | CC1=C(C=CC=C1C)N1CCNCC1 | C12H18N2
reactant | DIPEA | 0.413 mmol, 0.072 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.825 mmol, 175 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3-(1-tert-butyl-5-(4-chlorophenyl)-1H-pyrazol-3-yl)propyl)-4-(2,3-dimethylphenyl)piperazine | C(C)(C)(C)N1N=C(C=C1C1=CC=C(C=C1)Cl)CCCN1CCN(CC1)C1=C(C(=CC=C1)C)C | C28H37ClN4
